US08309580B2
(5) 4-methyl-1-[3-(trifluoromethyl)phenyl]-1H-pyrrole-3-carbaldehyde
Methyl 4-methyl-1-[3-(trifluoromethyl)phenyl]-1H-pyrrole-3-carboxylate (3.0 g) synthesized above was dissolved in tetrahydrofuran (10 mL) and added dropwise to a solution (15 mL) of lithium aluminum hydride (0.40 g) in tetrahydrofuran at 0° C. The reaction mixture was stirred at 0° C. for 30 min, water (0.40 mL) was carefully added dropwise, 1N aqueous sodium hydroxide solution (2.0 mL) was added, and the mixture was stirred at room temperature for 30 min. The reaction mixture was filtered through celite, and the residue was washed with tetrahydrofuran (30 mL). The extracts were combined, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was dissolved in toluene (50 mL), manganese dioxide (6.0 g) was added, and the mixture was heated under reflux under dehydrating conditions for 1 hr. After cooling, manganese dioxide was filtered off, and the residue was evaporated under reduced pressure to give the title compound (2.3 g, 86%) as a slightly yellow solid.

reactant | Methyl 4-methyl-1-[3-(trifluoromethyl)phenyl]-1H-pyrrole-3-carboxylate | 3.0 g | CC=1C(=CN(C1)C1=CC(=CC=C1)C(F)(F)F)C(=O)OC | C14H12F3NO2
reactant | lithium aluminum hydride | 15 mL, 0.40 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.40 mL | O | H2O
reactant | sodium hydroxide | 1N, 2.0 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-methyl-1-[3-(trifluoromethyl)phenyl]-1H-pyrrole-3-carbaldehyde | 2.3 g, 86% | CC=1C(=CN(C1)C1=CC(=CC=C1)C(F)(F)F)C=O | C13H10F3NO
